US07888364B2
A mixture of 57 mg of 3-methyl-1,2,4-triazol and 16 mg of sodium hydride in 2 mL of DMF was stirred for 10 min. 80 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide was added. The reaction was heated to 140° C. for 16 h. The reaction mixture was quenched with MeOH and evaporated. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(3-methyl-1H-1,2,4-triazol-1-yl)nicotinamide. MS (Q1) 405.3 (M)+.

reactant | 3-methyl-1,2,4-triazol | 57 mg | CC1=NNC=N1 | C3H5N3
reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 80 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(3-methyl-1H-1,2,4-triazol-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1N=C(N=C1)C)C)=O)C1=NC=CC=C1 | C21H17ClN6O
